US09023846B2
A solution of 5-tert-butyl-4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid [4-chloro-3-nitro-6-(2-trifluoromethyl-phenyl)-pyridin-2-yl]-amide (109 mg, 0.211 mmol, prepared as described in the previous step) in EtOH (5 mL) and water (2.5 mL) was treated with NH4Cl (113 mg, 2.11 mmol) and iron powder (58.9 mg, 1.06 mmol). The mixture was heated to 60° C. for 5 h, then the EtOH was evaporated in vacuo. The remaining aqueous mixture was diluted with water (30 mL) and extracted twice with EtOAc (25 mL). The combined organic extracts were dried over MgSO4 and concentrated in vacuo. The residue was purified on a 12-g SEPRA Si 35 SPE column (Flow rate=15 mL/min; Eluent=EtOAc-hexanes, 1:99 for 10 min, then 1:99 to 1:4 over 40 min) to yield 5-tert-butyl-4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid [3-amino-4-chloro-6-(2-trifluoromethyl-phenyl)-pyridin-2-yl]-amide as a colorless glassy solid. Mass Spectrum (LCMS, ESI pos.): Calculated for C21H20N5OCl2F3: 486.1 (M+H); Measured: 486.2.

reactant | 5-tert-butyl-4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid [4-chloro-3-nitro-6-(2-trifluoromethyl-phenyl)-pyridin-2-yl]-amide | ClC1=C(C(=NC(=C1)C1=C(C=CC=C1)C(F)(F)F)NC(=O)C=1N(N=C(C1Cl)C(C)(C)C)C)[N+](=O)[O-] | C21H18Cl2F3N5O3
reactant | water | 2.5 mL | O | H2O
reactant | NH4Cl | 2.11 mmol, 113 mg | [NH4+].[Cl-]
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | iron | 1.06 mmol, 58.9 mg | [Fe] | Fe
product | 5-tert-butyl-4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid [3-amino-4-chloro-6-(2-trifluoromethyl-phenyl)-pyridin-2-yl]-amide | NC=1C(=NC(=CC1Cl)C1=C(C=CC=C1)C(F)(F)F)NC(=O)C=1N(N=C(C1Cl)C(C)(C)C)C | C21H20Cl2F3N5O
